US06166219
Manganese dioxide (3.46 g) was added to a solution of 3.46 g of 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole in 100 ml of toluene, and toluene was heat-refluxed for 3.5 hours while the mixture was dehydrated using a molecular sieve 4A. The solid material was separated through filtration, and was washed with chloroform. The filtrate was concentrated to give 3.35 g of 1-(2-chlorobenzyl)-6-formyl-2-methylbenzimidazole.

reactant | 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole | 3.46 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CO)C)C=CC=C1 | C16H15ClN2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Manganese dioxide | 3.46 g | [O-2].[O-2].[Mn+4]
product | 1-(2-chlorobenzyl)-6-formyl-2-methylbenzimidazole | 3.35 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C=O)C)C=CC=C1 | C16H13ClN2O
